US09216980B2
Step 2: 6-(1-Methyl-1H-1,2,3-triazol-5-yl)-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole
A degassed mixture of 6-iodo-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole (100 mg, 0.21 mmol), 1-methyl-5-(trimethylstannyl)-1H-1,2,3-triazole (158 mg, 0.64 mmol) and bis(triphenylphosphine)palladium(II) dichloride (15 mg, 0.021 mmol) in N,N-diisopropylethylamine (0.74 mL, 0.43 mmol) in 1,4-dioxane (1.7 mL) was heated at 100° C. for 1 h. The cooled reaction mixture was diluted with DCM (20 mL) and methanol (2 mL) and washed with water (15 mL). The organic phase was separated, dried over sodium sulfate, filtered and evaporated in vacuo to afford a residue that was purified by preparative HPLC (20-60% MeCN in water (0.1% ammonium hydroxide) over 30 min, 35 mL/min) to afford the title compound as a pale yellow solid (20 mg, 20%). 1H NMR (DMSO-D6, 400 MHz): 12.47 (s, 1H), 9.05 (s, 1H), 9.04 (d, J=2.2 Hz, 1H), 8.96 (d, J=2.2 Hz, 1H), 8.78 (s, 1H), 8.18 (s, 1H), 7.77 (d, J=8.1 Hz, 2H), 7.45 (d, J=8.1 Hz, 2H), 4.37 (s, 3H), 3.50 (s, 2H), 2.35 (s, 4H), 1.52 (m, 4H), 1.41 (m, 2H). LCMS (method D): RT=8.04 min, M+H+=424.

reactant | 6-iodo-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 0.21 mmol, 100 mg | IC1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C22H21IN4
reactant | 1-methyl-5-(trimethylstannyl)-1H-1,2,3-triazole | 0.64 mmol, 158 mg | CN1N=NC=C1[Sn](C)(C)C
reactant | N,N-diisopropylethylamine | 0.43 mmol, 0.74 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 1.7 mL | O1CCOCC1 | C4H8O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 0.021 mmol, 15 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 6-(1-Methyl-1H-1,2,3-triazol-5-yl)-3-(4-piperidin-1-ylmethyl-phenyl)-9H-dipyrido[2,3-b;4′,3′-d]pyrrole | 20 mg, 20% | CN1N=NC=C1C1=CC=2C3=C(NC2C=N1)N=CC(=C3)C3=CC=C(C=C3)CN3CCCCC3 | C25H25N7
